US07256198B2
Step 8: 7-Chloro-8-{[(2S)-2-(methoxymethyl)pyrrolidin-1-yl-]sulfonyl}-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one
To a solution of 7-chloro-10-oxo-2,3,4,10-tetrahydropyrimido[1,2-a]indole-8-sulfonyl chloride (0.140 g, 0.439 mmol) in CH2Cl2 (10 mL) was added (S)-(+)-2-(methoxymethyl)pyrrolidine (0.119 g, 0.965 mmol, 2.2 eq) drop-wise with cooling in an ice bath under a dry N2 atmosphere. After stirring at room temperature for 1.5 hr, the mixture was quenched with H2O (10 mL) and extracted with EtOAc (3×). The combined organic extracts were dried over MgSO4, filtered, and concentrated to give a film on glass. The film was combined with the product of an earlier run and purified on Biotage KP silica gel eluting with a step gradient of 20/80 petroleum ether/EtOAc, followed by 100% EtOAc to give the title compound as a bright yellow solid (0.104 g, 52.3% yield). Anal. Calc'd. for C17H20ClN3O4S.0.2H2O: C, 50.86; H, 5.12; N, 10.47. Found, C, 50.82; H, 5.00; N, 10.31. NMR (400 MHz, DMSO-d6): consistent. MS: (ES−) m/z 396/398 [M−H] 1 chlorine pattern observed. m.p.: 127-130° C. HRMS: consistent ESI Adduct [M+H] Exact 398.09358, Expt'l 398.09411, mmu 0.53, ppm 1.34, RI % 100.

reactant | 7-chloro-10-oxo-2,3,4,10-tetrahydropyrimido[1,2-a]indole-8-sulfonyl chloride | 0.439 mmol, 0.140 g | ClC=1C(=CC=2C(C=3N(C2C1)CCCN3)=O)S(=O)(=O)Cl | C11H8Cl2N2O3S
reactant | (S)-(+)-2-(methoxymethyl)pyrrolidine | 0.965 mmol, 0.119 g, 2.2 eq | COC[C@H]1NCCC1 | C6H13NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 7-Chloro-8-{[(2S)-2-(methoxymethyl)pyrrolidin-1-yl-]sulfonyl}-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 0.104 g, 52.3% yield | ClC=1C(=CC=2C(C=3N(C2C1)CCCN3)=O)S(=O)(=O)N3[C@@H](CCC3)COC | C17H20ClN3O4S
